Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
bee stings
 
Attending: ___
 
Chief Complaint:
HA
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 ___ year old male with a previous admission for a ___
sustained while intoxicated presents after falling from 
standing.
He was heavily intoxicated with a blood alcohol of 262 and a
strong odor of liquor on his breath.  He was boarded and 
collared
and brought to ___ for further evaluation. 

 
Past Medical History:
etoh abuse

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
O: T:98  BP:100/52         HR:86   R 16     97RA O2Sats
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___      EOMs
Extrem: Warm and well-perfused.
Neuro:
Mental status: Lethargic
Orientation: Oriented to person only.
Language: Speech thickened, not fluent.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to2 
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Moves all extremities. Pt unablet to participate in 
exam
to test for pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

Coordination: unable to examine

Exam on Discharge ***
 
Pertinent Results:
___ 05:42PM   WBC-6.7 RBC-4.31* HGB-14.1 HCT-40.7 MCV-95 
MCH-32.7* MCHC-34.6 RDW-14.4
___ 08:51PM   GLUCOSE-108* UREA N-7 CREAT-0.9 SODIUM-145 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-32 ANION GAP-15

___ ___
1.  Right frontotemporal hemorrhagic contusions.   
2.  Tiny subdural hematoma in the right middle cranial fossa.   
3.  Left temporal bone fracture with blood in the middle ear 
cavity and tiny foci of pneumocephalus.  The fracture line 
extends into the sphenoid sinus, along the petrous portion of 
the ICA.  CTA would be recommended to exclude carotid injury. 

___ CT c-spine
No acute fracture of the cervical spine.

___ CTA Head
No significant changes are demonstrated in the fracture 
involving 
the left internal carotid canal, no new lesions are identified.  
The CTA of the head demonstrates normal pattern of vascular 
enhancement throughout the internal carotid arteries and 
vertebrobasilar system, there is no evidence of flow stenotic 
lesions, dissection or aneurysm larger than 3 mm in size. 

___ pelvis AP/Lat
Single AP view of the pelvis was provided.  Overlying bed linens 

are present which limit the evaluation given the overlapping 
linear densities. The bony pelvic ring appears intact.  No 
definite fracture at either hip.  Mild right acetabular spurring 
is noted. 

___ ___
1.  Stable right frontotemporal hemorrhagic contusions and small 
subdural 
hematoma in the right middle cranial fossa.   
2.  Unchanged appearance of left temporal bone fracture. 
3.  Opacification of scattered ethmoid air cells and nearly 
total 
opacification of the left sphenoidal sinus suggest chronic sinus 
inflammatory 
disease.   
  

 
Brief Hospital Course:
On ___, the patient was admitted from the emergency room where 
he was loaded with 1 gram of Keppra and started on iv thiamine 
and folate. He underwent a CTA of the head to rule out vascular 
injury secondary to his temporal bone fracture which was 
negative for any vascular damage. Examinations were very limited 
due to the patient's intoxication.
On ___, social work was consulted due to the patient's poor 
physical appearance in the ED, prior admissions for similar 
falls while intoxicated, and reports of the patient being 
homeless. The patient was known to social work from prior 
admissions. they provided him with fresh clothing and signed off 
as the patient stated that SW met w/pt at bedside. Pt reported 
that he lives with parents and he denied any abuse or neglect. 
ENT was also consulted on the patient for his temporal bone 
fracture and complaints of ear pain.  They recommended following 
his exam to document any facial weakness, to keep CSF 
precautions and to schedule an outpatient audiogram when the 
patient was stable. 
___, the patient complained of ear pain, however, was requesting 
to be discharged. 
 
Medications on Admission:
Unknown.
 
Discharge Medications:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left temporal bone fracture 
Right-sided contusions and subarachnoid hematoma
Subdural hematoma in the middle crani fossa
 
Discharge Condition:
Awake, alert and oriented.
Ambulating and able to perform activities of daily living.
Tolerating a regular diet.
 
Discharge Instructions:
You were admitted for a subdural hematoma, contusions and 
subarachnoid hemorrhage which do not require surgical 
intervention. 

 
Followup Instructions:
___